US09238656B2
Synthesis of (1S,2S,3R,4R)-3-[2-(4-Dimethylamino-2-methoxy-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound XCIII)
In a similar fashion to Compound LXXXVII, (1S,2S,3R,4R)-3-(2,3-Diamino-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (50.0 mg, 0.193 mmol) and 4-dimethylamino-2-methoxy-benzaldehyde (38.0 mg, 0.212 mmol) were reacted to produce 20 mg (29%) of the title compound. mp: 185-190° C., 1H NMR (300 MHz, DMSO-d6): 11.78 (s, 1H), 8.00 (d, J=8 Hz, 1H), 7.85 (d, J=5 Hz, 1H), 7.65 (s, 1H), 7.14 (s, 1H), 6.69 (d, J=8 Hz, 2H), 6.46 (d, J=8 Hz, 1H), 6.36 (d, J=8 Hz, 1H), 6.32 (br s, 3H), 3.96 (s, 3H), 3.01 (s, 6H), 2.86 (s, 1H), 2.75 (s, 1H), 2.59 (d, J=8 Hz, 1H), 2.24 (d, J=8 Hz, 1H), 1.42 (d, J=8 Hz, 1H). MS: 419 (M+H), HPLC: 2.09 min (G method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.193 mmol, 50.0 mg | NC1=NC=CC(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N | C13H17N5O
reactant | 4-dimethylamino-2-methoxy-benzaldehyde | 0.212 mmol, 38.0 mg | CN(C1=CC(=C(C=O)C=C1)OC)C | C10H13NO2
product | (1S,2S,3R,4R)-3-[2-(4-Dimethylamino-2-methoxy-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 20 mg, 29% | CN(C1=CC(=C(C=C1)C1=NC=2C(=NC=CC2N[C@H]2[C@H]([C@@H]3C=C[C@H]2C3)C(=O)N)N1)OC)C | C23H26N6O2
